US05420115
9-(2-Deoxy-2-fluoro-β-D-ribofuranosyl)guanine
2,6-Diamino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine (0.20 g, 0.64 mmole), prepared as in Example 6, was dissolved in 15 ml of water. Calf intestinal adenosine deaminase (4 I.U., Boehringer Mannheim) was added and the solution incubated at 37° for 4 days. The solution was cooled to 4° C. After 3 hrs, the suspension was filtered to remove the first batch of product crystals. The volume of the filtrate was reduced under vacuum and the suspension cooled to 4° C. The suspension was filtered to remove the second batch of product crystals. The batches of product crystals were combined, suspended in water and lyophilized to obtain title compound that analyzed as a 1.3 hydrate.

reactant | 2,6-Diamino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine | 0.64 mmole, 0.20 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F)N | C10H13FN6O3
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
solvent | water | 15 ml | O | H2O
product | 9-(2-Deoxy-2-fluoro-β-D-ribofuranosyl)guanine | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=2N=C(NC(C2N=C1)=O)N | C10H12FN5O4
